US07790709B2
Preparation of (E)-N-Methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-(1-propyl-naphthalen-2-ylmethyl)acrylamide hydrochloride
A 2 M solution of hydrogen chloride in Et2O (0.25 ml, 0.518 mmol) was added to (E)-N-methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-(1-propyl-naphthalen-2-ylmethyl)acrylamide (0.229 g, 0.518 mmol) in CH2Cl2 (5 mL) via syringe. The solution was allowed to stir for 18 h during time which a precipitate fell out of the solution. The product was collected by filtration and was washed with Et2O (100 mL). The product was dried to give the title compound (0.182 g, 73%) as an orange solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 12.00 (br s, 1H), 11.22 (s, 1H), 8.86-8.82 (m, 1H), 8.38-8.32 (m, 1H), 7.94-7.87 (m, 4H), 7.74-7.29 (m, 5H), 6.06-5.64 (m, 1H), 4.40-4.30 (m, 2H), 3.94-3.91 (br s, 2H), 2.93-2.57 (m, 6H), 2.10-2.05 (m, 2H), 1.37-1.32 (m, 2H), 1.02-0.97 (m, 3H); MS (ESI) m/e 443 (M+H)+.

reactant | hydrogen chloride | Cl | ClH
reactant | Et2O | 0.518 mmol, 0.25 ml | CCOCC | C4H10O
reactant | (E)-N-methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-(1-propyl-naphthalen-2-ylmethyl)acrylamide | 0.518 mmol, 0.229 g | CN(C(\C=C\C1=CC2=C(NC(CN(C2)C)=O)N=C1)=O)CC1=C(C2=CC=CC=C2C=C1)CCC | C27H30N4O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-Methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-(1-propyl-naphthalen-2-ylmethyl)acrylamide hydrochloride | 0.182 g, 73% | Cl.CN(C(\C=C\C1=CC2=C(NC(CN(C2)C)=O)N=C1)=O)CC1=C(C2=CC=CC=C2C=C1)CCC | InChI=1S/C27H30N4O2.ClH/c1-4-7-23-21(12-11-20-8-5-6-9-24(20)23)17-31(3)26(33)13-10-19-14-22-16-30(2)18-25(32)29-27(22)28-15-19;/h5-6,8-15H,4,7,16-18H2,1-3H3,(H,28,29,32);1H/b13-10+;
